US07420001B2
To 190 mg of 4-hydroxy-5-hydroxymethyl-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester was added 1 mL of iodomethane, 200 mg of K2CO3 and 3 mL of DMF. The mixture was stirred at room temperature overnight. The reaction mixture was washed with brine and extracted with ethyl acetate. The combined ethyl acetate solution was washed with brine. Removal of the solvent gave 200 mg of 4-methoxy-5-hydroxymethyl-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester as a pale yellow oil.

reactant | 4-hydroxy-5-hydroxymethyl-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 190 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)CO)O | C15H18O5
reactant | iodomethane | 1 mL | IC | CH3I
reactant | K2CO3 | 200 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-methoxy-5-hydroxymethyl-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 200 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)CO)OC | C16H20O5
